US07541374B2
The mixture of 1.45 g of 3-(pentafluoroethyl)-1H-1,2,4-triazole and 0.46 g of paraformaldehyde was stirred at 150° C. for 5 hours. After the reaction mixture was cooled to room temperature, acetone was added. The mixture was filtered. The filtrate was concentrated. Hexane was added to the residue, as a result, a crystal was formed. The crystal was collected to obtain 1.52 g of 3-(pentafluoroethyl)-1H-1,2,4-triazole 1-ylmethanol.

reactant | 3-(pentafluoroethyl)-1H-1,2,4-triazole | 1.45 g | FC(C(F)(F)F)(C1=NNC=N1)F | C4H2F5N3
reactant | paraformaldehyde | 0.46 g | C=O | CH2O
solvent | acetone | CC(=O)C | C3H6O
product | 3-(pentafluoroethyl)-1H-1,2,4-triazole 1-ylmethanol | 1.52 g | FC(C(F)(F)F)(C1=NN(C=N1)CO)F | C5H4F5N3O
